US04110465
Preparation of α-Chloro-α-phenyl-2-nitroacetanilide
A solution of 35 g. of o-nitroaniline and 26 g. of triethyl amine in 600 ml. of xylene was heated to reflux. A solution of 50 g. of α-chlorophenylacetyl chloride in 200 ml. of xylene was added and the resulting mixture heated to reflux temperature for 18 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo to a residue comprising α-chloro-α-phenyl-2-nitroacetanilide formed in the above reaction. Recrystallization of the residue from methanol yielded material melting 80°-82° C.; yield = 55 g.

reactant | o-nitroaniline | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | α-chlorophenylacetyl chloride | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | α-Chloro-α-phenyl-2-nitroacetanilide | ClC(C(=O)NC1=CC=CC=C1)([N+](=O)[O-])C1=CC=CC=C1 | C14H11ClN2O3
